US04032575
One g of α-(3,4-dimethoxyphenethylaminomethyl)-2-benzyloxybenzylalcohol hydrochloride, 0.3 g of 10 % palladium-carbon and 30 ml of 80 % aqueous isopropanol are treated in the same manner as described in Example 1-(c). 0.75 g of α-(3,4-dimethoxyphenethylaminomethyl)-2-hydroxybenzylalcohol hydrochloride are obtained. M.p. 141° - 143° C.(decomp.)(recrystallized from a mixture of ethanol and ether). 1/2 Oxalate: M.p. 175° -176° C.(recrystallized from ethanol).

reactant | α-(3,4-dimethoxyphenethylaminomethyl)-2-benzyloxybenzylalcohol hydrochloride | Cl.COC=1C=C(CCNCC(C2=C(C=CC=C2)OCC2=CC=CC=C2)O)C=CC1OC
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | α-(3,4-dimethoxyphenethylaminomethyl)-2-hydroxybenzylalcohol hydrochloride | 0.75 g | Cl.COC=1C=C(CCNCC(C2=C(C=CC=C2)O)O)C=CC1OC | InChI=1S/C18H23NO4.ClH/c1-22-17-8-7-13(11-18(17)23-2)9-10-19-12-16(21)14-5-3-4-6-15(14)20;/h3-8,11,16,19-21H,9-10,12H2,1-2H3;1H
